US05578622
Synthesis of 3-(3-iodo-l,l-dimethyl-2-propynyloxymethyloxy)-4-cyano-5-methylthioisothiazole (compound No. 100)
1.7 Grams of 3-hydroxy-4-cyano-5-methylthioisothiazole was dissolved in 30 ml of DMF, 1.4 g of 1,1-dimethyl-2-propynyloxymethyl chloride was added thereto, and then the reaction solution was stirred at 50° C. for 1 hour. Thereafter, the reaction solution was ice-cooled to 5° to 10° C., 5.1 g of iodine and 3.5 g of potassium iodide were added thereto, and then 6.6 g of 10% KOH was added dropwise. The temperature of the reaction solution was returned to room temperature, and after stirring for 1 hour, the reaction solution was extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to obtain crude crystals. The crystals were recrystallized from ether to obtain 2.4 g of crystals having a melting point of 96° to 97° C. (yield 60%).

reactant | 3-hydroxy-4-cyano-5-methylthioisothiazole | OC1=NSC(=C1C#N)SC | C5H4N2OS2
reactant | 1,1-dimethyl-2-propynyloxymethyl chloride | 1.4 g | CC(C)(OCC#C)Cl | C6H9ClO
reactant | iodine | 5.1 g | II | I2
reactant | potassium iodide | 3.5 g | [I-].[K+]
reactant | KOH | 6.6 g | [OH-].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(3-iodo-l,l-dimethyl-2-propynyloxymethyloxy)-4-cyano-5-methylthioisothiazole | 2.4 g, yield 60% | IC#CCOC(OC1=NSC(=C1C#N)SC)(C)C | C11H11IN2O2S2
